US07335658B2
Following the procedure of Example 6, making variations only as required to use 2-phenylcyclopropanecarbonyl chloride in place of phenoxyacetyl chloride to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone, both compounds were obtained from the reaction. 2-Phenylcyclopropanecarboxylic acid (2-phenylcyclopropanecarbonyl){6-[4-(2trifluoromethylbenzoyl)piperazin-1-yl]pyridazin-3-yl}amide was isolated by column chromatography eluting with EtOAc:hexane=40:60 and obtained as a white powder (20% yield). 1H NMR (300 MHz, CDCl3) δ 7.73, 7.62, 7.54, 7.34, 7.22, 7.16, 7.04, 6.84, 3.99, 3.82, 3.63, 3.28, 2.62, 2.31, 1.76, 1.38. MS (ES+) m/z 640.3 (M+1). 2-Phenylcyclopropanecarboxylic acid {6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazin-3-yl}amide was isolated by column chromatography eluting with EtOAc:hexane=50:50 and obtained as a white powder (16% yield). 1H NMR (300 MHz, CDCl3) δ 10.36, 8.39, 7.76, 7.64, 7.57, 7.34, 7.18, 7.12, 3.92, 3.52, 3.37, 3.18, 2.64, 2.30, 1.34. MS (ES+) m/z 496.3 (M+1).

reactant | 2-phenylcyclopropanecarbonyl chloride | C1(=CC=CC=C1)C1C(C1)C(=O)Cl | C10H9ClO
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 2-Phenylcyclopropanecarboxylic acid (2-phenylcyclopropanecarbonyl){6-[4-(2trifluoromethylbenzoyl)piperazin-1-yl]pyridazin-3-yl}amide | C1(=CC=CC=C1)C1C(C1)C(=O)N(C(=O)C1C(C1)C1=CC=CC=C1)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C36H32F3N5O3
